US08748626B2
To a solution of (±)-1-(5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)-2,2-dimethylpropan-1-amine (240 mg, 0.673 mmol) in CH2Cl2 (5.0 mL) was added NaBH(OAc)3 (2.86 g, 13.5 mmol). To this solution, the crude (3R,4S)-benzyl 3-fluoro-4-formylpyrrolidine-1-carboxylate (obtained from 2.0 equiv. of (3R,4R)-benzyl 3-fluoro-4-vinylpyrrolidine-1-carboxylate) in CH2Cl2 (1.0 mL) was rapidly added at room temperature. After stirred for 20 min, the reaction mixture was quenched with saturated NaHCO3 solution and extracted with EtOAc. The organic layer was washed with water and brine, dried over anhydrous Na2SO4, filtered and concentrated. The crude product was purified on preparative reverse phase HPLC. The combined fractions of the product were neutralized with saturated NaHCO3 solution, which was then extracted with EtOAc. The organic layer was dried over anhydrous sodium sulfate, filtered and concentrated in vacuo to yield (±)-(3R,4R)-benzyl 3-((1-(5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)-2,2-dimethylpropylamino)methyl)-4-fluoropyrrolidine-1-carboxylate (37 mg, 9.2%). LC/MS (uplc) MH+ 592.4, 0.91 min.

reactant | (±)-1-(5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)-2,2-dimethylpropan-1-amine | 0.673 mmol, 240 mg | C(C1=CC=CC=C1)C1=C(N=C(O1)C1=C(C=CC(=C1)F)F)C(C(C)(C)C)N | C21H22F2N2O
reactant | NaBH(OAc)3 | 13.5 mmol, 2.86 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | (3R,4S)-benzyl 3-fluoro-4-formylpyrrolidine-1-carboxylate | 2.0 equiv. | F[C@H]1CN(C[C@H]1C=O)C(=O)OCC1=CC=CC=C1 | C13H14FNO3
solvent | CH2Cl2 | 5.0 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1.0 mL | C(Cl)Cl | CH2Cl2
product | (±)-(3R,4R)-benzyl 3-((1-(5-benzyl-2-(2,5-difluorophenyl)oxazol-4-yl)-2,2-dimethylpropylamino)methyl)-4-fluoropyrrolidine-1-carboxylate | 37 mg, 9.2% | C(C1=CC=CC=C1)C1=C(N=C(O1)C1=C(C=CC(=C1)F)F)C(C(C)(C)C)NC[C@@H]1CN(C[C@@H]1F)C(=O)OCC1=CC=CC=C1 | C34H36F3N3O3
